US06114549
A solution of methyl 3-(prop-1-yloxy)benzoylacetate (745 g) (a compound of Formula (a)) in 1,2-dichloroethane was combined under nitrogen with a solution of 3-methoxyphenol (488 g) in 1,2-dichloroethane (2.5 L) and cooled to 0° C. Concentrated H2SO4 (626 mL) was added dropwise and the mixture was stirred vigorously at RT for 90 minutes. Ethyl acetate (3 L) and H2O (3 L) were added and the layers were equilibrated and separated. The aqueous layer was extracted again with ethyl acetate and the combined organic layers were washed with H2O, 5% aqueous NA2CO2CO3, 5% aqueous NaOH, H2O, and brine (2 L each). The organic phase was dried with MgSO4 and concentrated to dryness to yield 841 g (86%) of 4-[3-(prop-1-yloxy)phenyl]-7-methoxycoumarin. The product was recrystallized from ethanol/isopropanol followed by ethyl acetate/isopropanol to give 533 g (63% recovery) of 4-[3'-(prop-1-yloxy)phenyl]-7-methoxycoumarin. 300 MHz 1H NMR (CDCl3) δ 1.05 (t, J=7 Hz, 3 H), 1.83 (m, J=7 Hz, 2 H), 3.88 (s, 3 H), 3.96 (t, J=7 Hz, 2 H), 6.21 (s, 1 H), 6.79 (dd, J1 =2 Hz, J2 =9 Hz, 1 H), 6.88 (d, J=2 Hz, 1 H), 6.94 (m, 3 H), 7.40 (t, J 8 Hz, 1 H), 7.42 (d, J=9 H).

reactant | methyl 3-(prop-1-yloxy)benzoylacetate | 745 g | C(CC)OC=1C=C(C(=O)CC(=O)OC)C=CC1 | C13H16O4
reactant | 3-methoxyphenol | 488 g | COC=1C=C(C=CC1)O | C7H8O2
reactant | H2SO4 | 626 mL | OS(=O)(=O)O | H2O4S
reactant | Ethyl acetate | 3 L | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 2.5 L | ClCCCl | C2H4Cl2
solvent | H2O | 3 L | O | H2O
product | 4-[3-(prop-1-yloxy)phenyl]-7-methoxycoumarin | 841 g, 86% | C(CC)OC=1C=C(C=CC1)C1=CC(OC2=CC(=CC=C12)OC)=O | C19H18O4
